US04148895
2-(4-Ethylcarbonyl-1-piperazinyl)-1-phenyl-indole 3-carboxylic acid 4-methyl-piperazide
A mixture of 4 g (10 mmols) of 1 -phenyl-2-(1-piperazinyl)-indole 3-carboxylic acid 4-methyl-piperazide, 10 ml of ethyl chloroformiate and 40 ml of ethanol were heated at the boil for 24 hours. After cooling, the precipitate was suctionfiltered and washed with ethanol. The yield amount of 4.2 g in the form of hydrochloride that decomposed above 300° C.

reactant | 1 -phenyl-2-(1-piperazinyl)-indole 3-carboxylic acid 4-methyl-piperazide | 10 mmols, 4 g | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCNCC1 | C24H29N5O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(4-Ethylcarbonyl-1-piperazinyl)-1-phenyl-indole 3-carboxylic acid 4-methyl-piperazide | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCN(CC1)C(=O)CC | C27H33N5O2
